US07001900B2
A solution of 8-methoxy-2-naphthonitrile (263 mg, 1.44 mmol) and KOH (242 mg, 4.3 mmol) in 95% ethanol (5 mL) is heated to reflux for 72 hours. The solvent boiled off during heating leaving a solid. The reaction mixture is allowed to cool, dissolved in 1:1 ethanol-water then acidified to pH<2 with concentrated HCl. The resulting precipitate is collected by filtration, washed with water and dried by heating at 70° C. under vacuum to give 8-methoxy-2-naphthoic acid as a white solid (288 mg, 99%). HRMS (EI) calculated for C12H10O3: 202.0630, found 202.0629.

reactant | 8-methoxy-2-naphthonitrile | 1.44 mmol, 263 mg | COC=1C=CC=C2C=CC(=CC12)C#N | C12H9NO
reactant | KOH | 4.3 mmol, 242 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | ethanol water | C(C)O.O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 8-methoxy-2-naphthoic acid | 288 mg, 99% | COC=1C=CC=C2C=CC(=CC12)C(=O)O | C12H10O3
